US07994423B2
N2,N8,N14-Tris[3,4,5-tris(dodecyloxy)benzoyl]diquinoxalino[2,3-a:2′,3′-c]phenazine-2,8,14-tricarbohydrazide [BK1—17].
The title compound was synthesized according to a modified literature procedure.29 It should be noted that a mixture of the 2,8,14 and 2,8,15 isomers are formed. 5,6,11,12,17,18-Hexaazatrinaphthylene 2,8,14-tricarbonyl trichloride BK1—17 (2.28 g, 3.99 mmol) was dissolved in 80 ml dry THF and placed in a 100 ml three neck round bottom flask. 3,4,5-Tris(dodecanyloxy)benzoichydrazide SM6 (9.07 g, 13.2 mmol), dissolved in 200 ml THF, was placed in a dropping funnel. The apparatus was placed in a dewar flask (ice+H2O). The apparatus was degassed with argon. At a steady rate, SM6 solution was slowly added dropwise. The reaction mixture was stirred at 0° C. for two hours, after which 3 ml of pyridine were added and the solution was further stirred at room temperature overnight. Water (200 ml) was added to the reaction mixture upon which a dark solid formed. This solid (10.0 g, 99%) was filtered and dried. This compound was used with no further purification.

reactant | 5,6,11,12,17,18-Hexaazatrinaphthylene 2,8,14-tricarbonyl trichloride | C1=C(C=CC2=NC=3C4=NC5=CC(=CC=C5N=C4C4=NC5=CC(=CC=C5N=C4C3N=C12)C(=O)Cl)C(=O)Cl)C(=O)Cl | C27H9Cl3N6O3
reactant | 3,4,5-Tris(dodecanyloxy)benzoichydrazide | C(CCCCCCCCCCC)OC=1C=C(C(=O)NN)C=C(C1OCCCCCCCCCCCC)OCCCCCCCCCCCC | C43H80N2O4
reactant | THF | 80 ml | C1CCOC1 | C4H8O
reactant | THF | 200 ml | C1CCOC1 | C4H8O
product | N2,N8,N14-Tris[3,4,5-tris(dodecyloxy)benzoyl]diquinoxalino[2,3-a:2′,3′-c]phenazine-2,8,14-tricarbohydrazide | C(CCCCCCCCCCC)OC=1C=C(C(=O)N(N)C(=O)C=2C=CC3=NC4=C(C5=NC6=CC=C(C=C6N=C5C5=C4N=C4C=C(C=CC4=N5)C(=O)N(N)C(C5=CC(=C(C(=C5)OCCCCCCCCCCCC)OCCCCCCCCCCCC)OCCCCCCCCCCCC)=O)C(=O)N(N)C(C5=CC(=C(C(=C5)OCCCCCCCCCCCC)OCCCCCCCCCCCC)OCCCCCCCCCCCC)=O)N=C3C2)C=C(C1OCCCCCCCCCCCC)OCCCCCCCCCCCC | C156H246N12O15
